US04238497
(b) 1-N-Phenylcarbamoyl-2-phenylthiomethyl-2-imidazoline
2-Phenylthiomethyl-2-imidazoline (4.8 g; 0.025 mole) was dissolved in CH2Cl2 (200 ml) and the solution cooled to -15° C. before treating dropwise with fresh phenyl isocyanate (3.0 g; 0.025 moles) over 15 minutes. The mixture was allowed to warm to room temperature and stirring continued for a further 2 hours. The solvent was then evaporated in vacuo and the residue recrystallised from ethyl acetate, to give a solid, m.p. 117.4° to 119.0° C.

reactant | 2-Phenylthiomethyl-2-imidazoline | 0.025 mole, 4.8 g | C1(=CC=CC=C1)SCC=1NCCN1 | C10H12N2S
reactant | phenyl isocyanate | 0.025 moles, 3.0 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-N-Phenylcarbamoyl-2-phenylthiomethyl-2-imidazoline | C1(=CC=CC=C1)NC(=O)N1C(=NCC1)CSC1=CC=CC=C1 | C17H17N3OS
